US05162596
The reaction mixture containing sodium acetylide is then admixed with 1-bromo-Z-10-pentadecene in an amount of 0.8 to 1.2 moles per mole of the sodium acetylide and the reaction is effected at a temperature in the range from -20° to +20° C., usually, for 1 to 5 hours. After completion of the reaction, the reaction mixture is freed from ammonia and washed with water or diluted hydrochloric acid followed by isolation of the pro-duct by a conventional procedure including the methods of solvent extraction, distillation, column chromatography and the like to give the desired Z-12-heptadecen-1-yne in a good yield which is usually in the range from 65 to 85% based on the amount of the sodium metal.

reactant | sodium acetylide | [C-]#[C-].[Na+].[Na+]
reactant | 1-bromo-Z-10-pentadecene | BrCCCCCCCCC\C=C/CCCC | C15H29Br
reactant | ammonia | N | H3N
product | Z-12-heptadecen-1-yne | C#CCCCCCCCCC\C=C/CCCC | C17H30
